US07687469B2
1-Bromo-4-triisopropylsilylethynyl-benzene
11.6 mL triisopropylsilylacetylen and 14.4 mL triethylamine followed by 0.2 g copper iodide and 0.73 g bis-(triphenylphosphine)-palladium dichloride are added under argon to an oxygen-free solution of 15.0 g 4-bromo-1-iodo-benzene in 150 mL dry tetrahydrofuran. The solution is stirred for 16 h at ambient temperature and then filtered through Celite and evaporated down. The residue is purified by chromatography on silica gel (cyclohexane).

reactant | triisopropylsilylacetylen | 11.6 mL | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | triethylamine | 14.4 mL | C(C)N(CC)CC | C6H15N
reactant | oxygen | O=O | O2
reactant | 4-bromo-1-iodo-benzene | 15.0 g | BrC1=CC=C(C=C1)I | C6H4BrI
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
catalyst | copper iodide | 0.2 g | [Cu](I)I
catalyst | bis-(triphenylphosphine)-palladium dichloride | 0.73 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Bromo-4-triisopropylsilylethynyl-benzene | BrC1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C17H25BrSi
